US07655669B2
4-[Methyl-(1-methyl-4-piperidinyl)amino]-3-(trifluoromethyl)-benzoic acid
The title compound is prepared using an analogous method as described in Example 5.1, utilising 4-chloro-3-(trifluoromethyl)-benzonitrile (Lancaster Synthesis GmbH) and 1-methyl-4-(methylamino)-piperidine (Aldrich, Buchs, Switzerland). Subsequent hydrolysis of the nitrile is carried out with sodium hydroxide in a mixture of dioxane and water as described in Example 5.1.

reactant | 4-chloro-3-(trifluoromethyl)-benzonitrile | ClC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3ClF3N
reactant | 1-methyl-4-(methylamino)-piperidine | CN1CCC(CC1)NC | C7H16N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 4-[Methyl-(1-methyl-4-piperidinyl)amino]-3-(trifluoromethyl)-benzoic acid | CN(C1=C(C=C(C(=O)O)C=C1)C(F)(F)F)C1CCN(CC1)C | C15H19F3N2O2
